US08541588B2
tert-butyl 4-(5-chloro-4-fluoro-2-hydroxyphenyl)-1H-pyrazole-1-carboxylate
Prepared using the method of Example 587 using 4-chloro-5-fluoro-2-iodophenol (Preparation 744, 386 mg, 1.42 mmol) and tert-butyl 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole-1-carboxylate (500 mg, 1.70 mmol) gave the title compound as a white solid (200 mg, 38%).

reactant | 4-chloro-5-fluoro-2-iodophenol | 1.42 mmol, 386 mg | ClC1=CC(=C(C=C1F)O)I | C6H3ClFIO
reactant | tert-butyl 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole-1-carboxylate | 1.70 mmol, 500 mg | CC1(OB(OC1(C)C)C=1C=NN(C1)C(=O)OC(C)(C)C)C | C14H23BN2O4
product | tert-butyl 4-(5-chloro-4-fluoro-2-hydroxyphenyl)-1H-pyrazole-1-carboxylate | 200 mg, 38% | ClC=1C(=CC(=C(C1)C=1C=NN(C1)C(=O)OC(C)(C)C)O)F | C14H14ClFN2O3
